US04415570
2-Amino-4-chloro-6-(4-chlorophenyl)-s-triazine (melting point 273° to 275° C.) (2.12 grams) and 2.5 grams of pyrrolidine were dissolved in 20 milliliters of dioxane, the mixture was heated to reflux for two hours with stirring, the reaction solution was evaporated to dryness in vacuo, diluted aqueous solution of sodium hydroxide was added to the residue, insoluble matters were collected by filtration, and washed with isopropyl alcohol to give 2.21 grams of 2-amino-4-pyrrolidino-6-(4-chlorophenyl)-s-triazine, melting point 217° to 219° C.

reactant | 2-Amino-4-chloro-6-(4-chlorophenyl)-s-triazine | 2.12 grams | NC1=NC(=NC(=N1)Cl)C1=CC=C(C=C1)Cl | C9H6Cl2N4
reactant | pyrrolidine | 2.5 grams | N1CCCC1 | C4H9N
solvent | dioxane | 20 milliliters | O1CCOCC1 | C4H8O2
product | 2-amino-4-pyrrolidino-6-(4-chlorophenyl)-s-triazine | 2.21 grams | NC1=NC(=NC(=N1)N1CCCC1)C1=CC=C(C=C1)Cl | C13H14ClN5
